US04388238
1024 g aniline, 980 g ethylcarbamate, 1060 g ethanol (approximately 96%) and 6.0 g zinc octoate were reacted in the apparatus described in Example 1 for 6.5 hours at 200° C. When the apparatus had cooled and the pressure had been reduced, the reaction mixture was removed, filtered and analyzed by high pressure liquid chromatography (HPLC). A yield of 1580 g (87% of the theoretical yield) of N-phenyl-carbamic acid-ethyl ester was obtained.

reactant | aniline | 1024 g | NC1=CC=CC=C1 | C6H7N
reactant | ethylcarbamate | 980 g | C(C)NC([O-])=O
reactant | ethanol | 1060 g | C(C)O | C2H6O
catalyst | zinc octoate | 6.0 g | CCCCCCCC(=O)[O-].CCCCCCCC(=O)[O-].[Zn+2]
product | N-phenyl-carbamic acid-ethyl ester | C(C)OC(NC1=CC=CC=C1)=O | C9H11NO2
